US03985804
Preparation of 3'-iso-propoxy-2-methylbenzanilide
A 13.6 g (0.1 mol) portion of o-methylbenzoic acid, 15.1 g (0.1 mol) of m-isopropoxyaniline and 10.1 g (0.1 mol) of triethylamine were dissolved in 100 ml of xylene. A 5.1 g (0.033 mol) amount of phosphorus oxychloride was added dropwise to the prepared solution with stirring at 90° - 100° C. Stirring of the resulting solution was continued at 90° - 100° C for 3 hours. The reaction mixture was cooled and washed with water, and the product was dried over anhydrous sodium sulfate. The xylene was removed to obtain 20.9 g (77.9%) of white prismatic crystals having a melting point of 92°-94° C.

reactant | o-methylbenzoic acid | CC1=C(C(=O)O)C=CC=C1 | C8H8O2
reactant | m-isopropoxyaniline | 0.1 mol, 15.1 g | C(C)(C)OC=1C=C(N)C=CC1 | C9H13NO
reactant | triethylamine | 0.1 mol, 10.1 g | C(C)N(CC)CC | C6H15N
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3'-iso-propoxy-2-methylbenzanilide | 20.9 g, 77.9% | C(C)(C)OC=1C=C(NC(C2=C(C=CC=C2)C)=O)C=CC1 | C17H19NO2
